US06605629B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole (378 mg), 4,5-diphenylimidazole (270 mg), anhydrous potassium carbonate (220 mg) and N,N-dimethylformamide (10 ml) was stirred at 100° C. for 12 hours. The reaction mixture was poured into water, the resulting solid precipitate was filtered and air-dried. Recrystallization of this solid from acetone-isopropyl ether gave 4-(4-chlorophenyl)-2-(4,5-diphenyl-1-imidazolyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole as pale yellow prisms (220 mg, 46%). Melting point 118-119° C.

reactant | 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole | 378 mg | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCOC1=C(C=CC=C1)OC | C19H17Cl2NO3
reactant | 4,5-diphenylimidazole | 270 mg | C1(=CC=CC=C1)C=1N=CNC1C1=CC=CC=C1 | C15H12N2
reactant | potassium carbonate | 220 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(4-chlorophenyl)-2-(4,5-diphenyl-1-imidazolyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole | 220 mg, 46% | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)OC)N1C=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1 | C34H28ClN3O3
